US09079866B2
4′-(2-Amino-4-cyanopyrimidin-5-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing (2′-(N-(tert-butyl)sulfamoyl)-3-fluoro-[1,1′-biphenyl]-4-yl)boronic acid and 2-amino-5-bromo-4-cyanopyrimidine. MS (ESI): mass calcd. for C21H20FN5O2S, 327.08; m/z found, 328.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6) δ 8.64-8.59 (m, 1H), 8.07 (dd, J=7.9, 1.4, 1H), 7.71-7.65 (m, 1H), 7.65-7.59 (m, 2H), 7.57 (s, 2H), 7.45-7.39 (m, 2H), 7.36 (dd, J=7.8, 1.7, 1H), 6.89 (s, 1H), 1.02 (s, 9H).

reactant | (2′-(N-(tert-butyl)sulfamoyl)-3-fluoro-[1,1′-biphenyl]-4-yl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)B(O)O)F | C16H19BFNO4S
reactant | 2-amino-5-bromo-4-cyanopyrimidine | NC1=NC=C(C(=N1)C#N)Br | C5H3BrN4
product | 4′-(2-Amino-4-cyanopyrimidin-5-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC1=NC=C(C(=N1)C#N)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C21H20FN5O2S
